US04343945
5-(4-Nitrobenzamido)-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 10.9 g (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 10.2 g (0.055 mole) 4-nitrobenzoyl chloride in 200 ml toluene was heated at reflux for 20 hours. Upon cooling to room temperature, the crude product precipitated from the reaction mixture and was isolated by filtration. After washing with hexane, 13.5 g (73% yield) of pure product was obtained; m.p. 214° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 10.9 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | 4-nitrobenzoyl chloride | 0.055 mole, 10.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Nitrobenzamido)-3-Trichloromethyl-1,2,4-Thiadiazole | 13.5 g, 73% yield | [N+](=O)([O-])C1=CC=C(C(=O)NC2=NC(=NS2)C(Cl)(Cl)Cl)C=C1 | C10H5Cl3N4O3S
